Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
dyspnea, fatigue, lower extremity edema
 
Major Surgical or Invasive Procedure:
___ Transcatheter aortic valve intervention with 23mm ___ 
valve
 
History of Present Illness:
Ms. ___ is a ___ yo F with metastatic pancreatic cancer on 
chemotherapy and severe aortic stenosis requiring several 
hospitalizations for fluid overload and diuresis who presents 
today for TAVR.

She was referred to ___ for IV diuresis and evaluation by her 
oncologist in ___ and ___. Her chemotherapy treatments 
had to be postponed due to her tenuous fluid status and has been 
closely monitored by her oncologist. Her discharge weight in 
late ___ was 220 lbs.
 
Past Medical History:
- DM2
- HLD
- HTN
- Hypothyroidism
- OSA on CPAP
- Metastatic pancreatic adenocarcinoma 
- Very severe aortic stenosis (AVAi = 0.3, DI = 0.18)
 
Social History:
___
Family History:
No family history of premature atherosclerosis
Grandmother died of MI in her ___  
 
Physical Exam:
Admission:
General: Alert, no acute distress 
Neuro: Alert, oriented. knew name, dob, hospital she was at and
who the current and past presidents are/were. equal smile, 
tongue
midline. + shrug shoulders. able to puff her cheeks. +PERRLA,
able to follow my finger with her eyes appropriately. no
nystagmus. no pronator drift but did have a slight downward 
drift
of her left arm when holding them both out, palms up and eyes
closed. unable to do lower extremity assessment due to procedure
restriction.
Cardiovascular: Regular rate/rhythm 
Respiratory: Lungs clear anteriorly, breathing non-labored
Extremities: BLE warm/well-perfused, ___ pulses, no ___ edema 
Skin: Warm, dry and intact 
GU: 1400 in/DTV

Access sites:  
  Right groin: has moderate sanginous drainage (pressure held 
and
dressing reinforced. no hematoma or ecchymosis noted
  Left groin: no drainage, hematoma, or ecchymosis

Discharge exam:
Weight:202 pounds 
VS:T 97.7 BP 144/68 HR 68 RR 18 O2 sat 97%
General: Alert, no acute distress, sitting up in chair.  
Neuro: Alert, oriented. Speech clear and fluid. Asking
appropriate questions. Moves all extremities equally. No focal
deficits.  
Cardiovascular: Regular rate/rhythm, no gallop or rub  
Respiratory: Lungs clear anteriorly, breathing non-labored
Extremities: Bilateral groin access sites intact, no bruit,
ecchymosis or hematoma. No ___ edema. ___ pulses.  
Skin: Warm, dry and intact 

 
Pertinent Results:
Admission:
___ 11:30AM BLOOD WBC-5.8 RBC-4.14 Hgb-12.3 Hct-39.5 MCV-95 
MCH-29.7 MCHC-31.1* RDW-15.4 RDWSD-53.7* Plt ___
___ 11:30AM BLOOD ___ PTT-26.5 ___
___ 11:30AM BLOOD UreaN-18 Creat-0.7 Na-138 K-4.6 Cl-97 
HCO3-23 AnGap-18
___ 11:30AM BLOOD ALT-30 AST-33 AlkPhos-77 TotBili-0.3
___ 01:39PM BLOOD Calcium-9.7 Phos-4.1 Mg-1.7
___ 11:30AM BLOOD Albumin-4.2

Discharge labs:
___ 06:45AM BLOOD WBC-9.0 RBC-3.49* Hgb-10.3* Hct-32.8* 
MCV-94 MCH-29.5 MCHC-31.4* RDW-15.8* RDWSD-53.8* Plt ___
___ 06:45AM BLOOD Glucose-136* UreaN-16 Creat-0.6 Na-142 
K-4.2
___ 06:45AM BLOOD Mg-2.1

TTE ___:
The left atrial volume index is mildly increased. The estimated 
right atrial pressure is ___ mmHg. There is normal left 
ventricular wall thickness with a normal cavity size. There is 
normal regional left ventricular systolic function. Overall left 
ventricular systolic function is normal. Quantitative biplane 
left ventricular ejection fraction is 60 %. Left ventricular 
cardiac index is normal (>2.5 L/min/m2). Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. A 
___ 3 aortic valve bioprosthesis is present. The prosthesis 
is well seated with normal gradient. There is trace aortic 
regurgitation.The mitral valve leaflets are mildly thickened. 
There is moderate mitral annular calcification. There is trivial 
mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. There is trivial tricuspid regurgitation. 
The pulmonary artery systolic pressure could not be estimated. 
There is no pericardial effusion.

IMPRESSION: Well seated, normal functioning 23 ___ 3 TAVR 
with normal gradient and trace paravalvular aortic 
regurgitation.
 
Brief Hospital Course:
MS. ___ is a ___ year old woman with history of metastatic 
pancreatic cancer on
chemotherapy, severe aortic stenosis requiring several
hospitalizations for fluid overload and diuresis who was 
admitted 
for trans-catheter aortic valve replacement(TAVR) on ___. 
She had a successful TAVR with a 23mm ___ valve. Her post 
TAVR echo on ___ showed improved aortic gradients. She is 
being anticoagulated with aspirin and Plavix for this aortic 
valve replacement. Lasix was resumed on post op day 1. 
Metoprolol was initially held to monitor for conduction disorder 
post TAVR but no conduction disease was noted therefore 
metoprolol was resumed. We did not restart lisinopril which she 
states was recently discontinued. She was initially hypertensive 
post procedure with systolic blood pressures of 160s which was 
treated with hydralazine 10mg oral dose once. She was 
normotensive throughout the rest of the hospitalization. She was 
prescribed amoxicillin for SBE prophylaxis.  For diabetic 
management Jardiance and metformin were held during 
hospitalization and she was covered with sliding scale insulin. 
Her diabetic medications were all restarted at discharge. 
She was discharge to home with visiting nurse on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO QAM 
2. Citalopram 10 mg PO QAM 
3. Creon 12 5 CAP PO TID W/MEALS 
4. Levothyroxine Sodium 250 mcg PO QAM 
5. Metoprolol Succinate XL 25 mg PO QAM 
6. Multivitamins 1 TAB PO QAM 
7. Rosuvastatin Calcium 10 mg PO QPM 
8. empagliflozin 25 mg oral QAM 
9. MetFORMIN (Glucophage) 500 mg PO BID 
10. Furosemide 80 mg PO DAILY 
11. Glargine 20 Units Breakfast
Humalog 6 Units Lunch
Humalog 8 Units Dinner

 
Discharge Medications:
1.  Amoxicillin ___ mg PO ONCE Duration: 1 Dose 
take 4 tablets one hour before dental visits during the next 6 
months  
2.  Clopidogrel 75 mg PO DAILY Duration: 3 Months  
3.  Glargine 20 Units Breakfast
Humalog 6 Units Lunch
Humalog 8 Units Dinner 
4.  Aspirin 81 mg PO QAM  
5.  Citalopram 10 mg PO QAM  
6.  Creon 12 5 CAP PO TID W/MEALS  
7.  empagliflozin 25 mg oral QAM  
8.  Furosemide 80 mg PO DAILY  
9.  Levothyroxine Sodium 250 mcg PO QAM  
10.  MetFORMIN (Glucophage) 500 mg PO BID  
11.  Metoprolol Succinate XL 25 mg PO QAM  
12.  Multivitamins 1 TAB PO QAM  
13.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for a trans catheter aortic valve repair 
(TAVR)to treat your aortic valve stenosis which was done on 
___. By repairing the valve your heart can pump blood more 
easily and your shortness of breath and fluid overload should 
improve.  

It is very important to take all of your heart healthy 
medications. In particular, you are now taking aspirin and 
plavix. These medications help to prevent blood clots from 
forming on the new valve. If you stop these medications or miss 
___ dose, you risk causing a blood clot forming on your new valve. 
This could cause it to malfunction and it may be life 
threatening. Please do not stop taking aspirin or Plavix without 
taking to your heart doctor, even if another doctor tells you to 
stop the medications.  

You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure. One hour prior to your dental procedure take 
amoxicillin 2 gram once.  

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 202 pounds.
 
We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.  

Please see your follow up appointments listed below. 

If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ HeartLine at ___ 
to speak to a cardiologist or cardiac nurse practitioner.  

It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 
Followup Instructions:
___